US07049310B2
b) (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt
To tert-butyl (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylate (7.0 g, 25.5 mmole) was added 1:1 TFA/CH2Cl2 (100 mL). The reaction was stirred for 30 min, then was concentrated under vacuum. The residue was suspended in 4 N HCl/dioxane (100 mL), triturated, and concentrated to dryness. The resulting solid was triturated with Et2O, collected, and dried under vacuum to give the title compound (6.55 g, 100%) as a off-white solid: 1H NMR (400 MHz, d6-DMSO) δ 10.72 (s, 1 H), 8.35 (d, J=2.0 Hz, 1 H), 8.04 (s, 1 H), 7.54 (d, J=16.0 Hz, 1 H), 6.51 (d, J=16.0 Hz, 1 H), 2.91 (t, 2 H), 2.53 (t, 2 H); MS (ES) m/e 219.0 (M+H)+.

reactant | tert-butyl (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylate | 25.5 mmole, 7.0 g | O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)OC(C)(C)C | C15H18N2O3
reactant | TFA CH2Cl2 | 100 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (E)-3-(7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylic acid hydrochloride salt | 6.55 g, 100% | Cl.O=C1CCC=2C=C(C=NC2N1)/C=C/C(=O)O | InChI=1S/C11H10N2O3.ClH/c14-9-3-2-8-5-7(1-4-10(15)16)6-12-11(8)13-9;/h1,4-6H,2-3H2,(H,15,16)(H,12,13,14);1H/b4-1+;
